US06897224B2
5-[4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide
220 mg (0.46 mmol) of 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide is dissolved in 5.0 ml of dichloromethane and mixed with 9.2 ml of a 1N boron tribromide solution in dichloromethane. After 20 hours at room temperature, the reaction is halted by adding methanol. The solvent is removed in a vacuum, the residue is taken up in saturated sodium bicarbonate solution and ethyl acetate, extracted with ethyl acetate, and the combined organic phases are dried on sodium sulfate. After removal of the solvent and purification on silica gel with hexane-ethyl acetate (0-100%), 60 mg (28% of theory) of the product is obtained.

reactant | 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide | 0.46 mmol, 220 mg | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)OC | C24H25F4N3O3
reactant | boron tribromide | 1N | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | 5-[4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)O | C23H23F4N3O3
